US04159375
6-(o-Fluorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A mixture of 3.8 g. of 6-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine and 40 ml. of ethyl orthoacetate is refluxed for 4 hours, cooled and the solid is collected by filtration and washed with hexane, giving the desired product as a yellow solid, m.p. 199.5°-203.5° C.

reactant | 6-(o-fluorophenyl)-3-hydrazino-1,2,4-triazine | FC1=C(C=CC=C1)C1=CN=C(N=N1)NN | C9H8FN5
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 6-(o-Fluorophenyl)-3-methyl-1,2,4-triazolo[4,3-b]-1,2,4-triazine | FC1=C(C=CC=C1)C=1C=NC=2N(N1)C(=NN2)C | C11H8FN5
